US05281614
Step A: 5-n-Butyl-2-(2-chloro-5-nitrophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one
By the procedure of Example 3, Step C, 2-chloro-5-nitrophenylhydrazine [generated from the hydrochloride, which was prepared from 2-chloro-5-nitroaniline according to H. Stroh and G. Westphal, Chem. Ber. 96, 184 (1963), by partitioning between ether and 1N sodium carbonate] was reacted with ethyl N-carbethoxyvalerimidate (from Example 3, Step B). Enough THF was added to the reaction mixture to ensure dissolution of all starting material. After work-up, the residue was purified by flash chromatography on silica gel (gradient elution with 0.5-5.0 methanol in CH2Cl2) to give the title compound as an orange solid, mp 145°-147° C.; homogeneous by TLC (19:1 CH2Cl2 --MeOH), mass spectrum (FAB) m/e 297 (M+1)+.

reactant | 2-chloro-5-nitrophenylhydrazine | ClC1=C(C=C(C=C1)[N+](=O)[O-])NN | C6H6ClN3O2
reactant | hydrochloride | Cl | ClH
reactant | 2-chloro-5-nitroaniline | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | THF | C1CCOC1 | C4H8O
product | 5-n-Butyl-2-(2-chloro-5-nitrophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | C(CCC)C=1NC(N(N1)C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O | C12H13ClN4O3
